US04207234
To a mixture of 3-[4-{3-tert-butoxycarbonylamino-3-(4-methoxybenzyloxycarbonyl)propoxy}phenylglyoxyloylamino]-1-(α-carboxybenzyl)-2-azetidinone (870 mg), benzene (4 ml) and anisol (1 ml), there was added 2,2,2-trifluoroacetic acid (2 ml) under ice-cooling. The mixture was stirred at the same temperature for 1.5 hours and then diethyl ether (50 ml) was added thereto. The mixture was stirred for half an hour and insoluble materials were collected by filtration and suspended in ethyl acetate (30 ml). After the suspension was stirred at ambient temperature for half an hour, insoluble materials were collected by filtration and then treated with diethyl ether to give 3-[4-(3-amino-3-carboxypropoxy)phenylglyoxyloylamino]-1-(α-carboxybenzyl)-2-azetidinone (0.52 g).

reactant | 3-[4-{3-tert-butoxycarbonylamino-3-(4-methoxybenzyloxycarbonyl)propoxy}phenylglyoxyloylamino]-1-(α-carboxybenzyl)-2-azetidinone | 870 mg | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C1=CC=CC=C1)C(=O)O)=O)C(C=O)=O)C(=O)OCC1=CC=C(C=C1)OC | C36H39N3O11
reactant | benzene | 4 ml | C1=CC=CC=C1 | C6H6
reactant | anisol | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 2,2,2-trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-[4-(3-amino-3-carboxypropoxy)phenylglyoxyloylamino]-1-(α-carboxybenzyl)-2-azetidinone | 0.52 g | NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C1=CC=CC=C1)C(=O)O)=O)C(C=O)=O)C(=O)O | C23H23N3O8
